US07176204B2
2-(4-Hydroxymethylphenoxy)pyridine
Under an atmosphere of argon, 4-(2-pyridyloxy)benzoic acid (1.08 g, 5.02 mmol) was dissolved in 20 mL of dehydrated tetrahydrofuran. Under cooling with ice and stirring, 1 mol/L borane-tetrahydrofuran complex (15.1 mL, 15.1 mmol) was added dropwise for 5 minutes and the mixture was allowed to stand overnight at room temperature. Under cooling with ice, 2 mL of 6 mol/L hydrochloric acid were added dropwise and, after stirring for 30 minutes, the reaction mixture was concentrated under reduced pressure. The residue was poured into 100 mL of ice water and, after salt was saturated, the mixture was made alkaline with potassium carbonate, which was extracted with ethyl acetate. The extracted solution was dried over anhydrous sodium sulfate and then concentrated to obtain 1.01 g (100%) of the title compound as a pale yellow oil.

reactant | 4-(2-pyridyloxy)benzoic acid | 5.02 mmol, 1.08 g | N1=C(C=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C12H9NO3
reactant | hydrochloric acid | 6 mol/L, 2 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(4-Hydroxymethylphenoxy)pyridine | 1.01 g, 100% | OCC1=CC=C(OC2=NC=CC=C2)C=C1 | C12H11NO2
